US06982278B2
2-Methyl-2-{4-[2-(5-methyl-2-phenyloxazol-4-yl)ethylsulfanyl]phenoxy}propionic acid ethyl ester
Freshly prepared NaOEt (from 50 mg (2.2 mmol) Na) was charged with 2-(4-dimethylcarbamoylsulfanyl-phenoxy)-2-methyl-propionic acid ethyl ester (420 mg, 1.35 mmol) and refluxed for 3 h. Toluene-4-sulfonic acid 2-(5-methyl-2-phenyloxazol-4-yl)-ethyl ester (572 mg, 2.2 mmol) was added and the mixture was refluxed for another 3 h. The reaction was cooled and concentrated. The residue was shaken with EtOAc/water. After a second water wash, the organic layer was dried (MgSO4) and concentrated to give 500 mg crude product. Purification by flash chromatography (15% EtOAc/hexane) provided the product (98 mg, 17%): Rf=0.32 in 15% EtOAc/hexane; MS m/e 426 (MH+).

reactant | NaOEt | 2.2 mmol, 50 mg | CC[O-].[Na+]
reactant | 2-(4-dimethylcarbamoylsulfanyl-phenoxy)-2-methyl-propionic acid ethyl ester | 1.35 mmol, 420 mg | C(C)OC(C(C)(C)OC1=CC=C(C=C1)SC(N(C)C)=O)=O | C15H21NO4S
reactant | Toluene-4-sulfonic acid 2-(5-methyl-2-phenyloxazol-4-yl)-ethyl ester | 2.2 mmol, 572 mg | CC1=C(N=C(O1)C1=CC=CC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C19H19NO4S
product | 2-Methyl-2-{4-[2-(5-methyl-2-phenyloxazol-4-yl)ethylsulfanyl]phenoxy}propionic acid ethyl ester | 98 mg, 17% | C(C)OC(C(C)(OC1=CC=C(C=C1)SCCC=1N=C(OC1C)C1=CC=CC=C1)C)=O | C24H27NO4S
